US09238639B2
B) Ethyl(6-((2,4-dichlorobenzyl)sulfanyl)-1-benzothiophen-3-yl)acetate
To a solution of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (15.71 mg), DIPEA (0.187 ml), 2,4-dichlorobenzyl mercaptan (0.085 mL) and ethyl(6-(((trifluoromethyl)sulfonyl)oxy)-1-benzothiophen-3-yl)acetate (200 mg) in toluene (6 mL) was added tris(dibenzylideneacetone)dipalladium(0) (24.86 mg) at room temperature. The mixture was refluxed 1.5 h. After cooling, water was poured into mixture, and the mixture was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (238 mg).

reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 15.71 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | DIPEA | 0.187 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichlorobenzyl mercaptan | 0.085 mL | ClC1=C(CS)C=CC(=C1)Cl | C7H6Cl2S
reactant | ethyl(6-(((trifluoromethyl)sulfonyl)oxy)-1-benzothiophen-3-yl)acetate | 200 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)=O | C13H11F3O5S2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 24.86 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | Ethyl(6-((2,4-dichlorobenzyl)sulfanyl)-1-benzothiophen-3-yl)acetate | 238 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)SCC2=C(C=C(C=C2)Cl)Cl)=O | C19H16Cl2O2S2
